US06727264B1
N-(3-{1-[5-(1,2-DIPHENYL-1H-INDOL-3-YL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-{3-[1-(7-oxo-7-phenylheptyl)-4-piperidinyl]phenyl}propanamide and 1,1-diphenylhydrazine hydrochloride: ESMS m/e: 584.3 (M+H)+.

reactant | 2-methyl-N-{3-[1-(7-oxo-7-phenylheptyl)-4-piperidinyl]phenyl}propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCCC(C1=CC=CC=C1)=O)C | C28H38N2O2
reactant | 1,1-diphenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
product | N-(3-{1-[5-(1,2-DIPHENYL-1H-INDOL-3-YL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C40H45N3O
